US09371333B2
3-Amino-1-(3-bromo-4,5-dimethoxy-phenyl)-6-methyl-1H-4-oxa-5-aza-phenanthrene-2-carbonitrile (16)
8-Hydroxyquinaldine (382 mg, 2.4 mmol), 5-bromo-3,4-dimethoxybenzaldehyde (490 mg, 2 mmol) and malononitrile (132 mg, 2 mmol) were taken in 25 ml ethanol at room temperature, charged with DABCO (22 μl, 0.3 mmol) and then stirred at 80° C. under LC-MS control for 3 days. The reaction mixture was cooled down to room temperature, diluted with water to about 100 ml and then extracted with ethyl acetate (2×50 ml). The organic solution was washed with 5% sodium bicarbonate solution (2×50 ml) and then dried over magnesium sulfate, solvent was evaporated under vacuum at 40° C. and the residue was dried under high vacuum giving 217 mg of the title compound (0.48 mmol, 20%).

reactant | 8-Hydroxyquinaldine | 2.4 mmol, 382 mg | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | 5-bromo-3,4-dimethoxybenzaldehyde | 2 mmol, 490 mg | BrC=1C(=C(C=C(C=O)C1)OC)OC | C9H9BrO3
reactant | malononitrile | 2 mmol, 132 mg | C(CC#N)#N | C3H2N2
reactant | DABCO | 0.3 mmol, 22 μl | C1CN2CCN1CC2 | C6H12N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-Amino-1-(3-bromo-4,5-dimethoxy-phenyl)-6-methyl-1H-4-oxa-5-aza-phenanthrene-2-carbonitrile | 0.48 mmol, 217 mg, 20% | NC1=C(C(C=2C=CC3=CC=C(N=C3C2O1)C)C1=CC(=C(C(=C1)OC)OC)Br)C#N | C22H18BrN3O3
